US07897609B2
A modification of the method described in Part D of the preparation of 1-[4-amino-7-bromo-2-(ethoxymethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-2-methylpropan-2-ol was used to treat tert-butyl 2-({7-bromo-3-[(ethoxyacetyl)amino][1,5]naphthyridin-4-yl}amino)-1,1-dimethylethylcarbamate (55.6 g, 0.104 mol) with potassium carbonate (55.6 g). After the ethanol was removed under reduced pressure, and the resulting mixture was extracted with dichloromethane (4×300 mL). The combined extracts were concentrated under reduced pressure to provide 51 g of tert-butyl {2-[7-bromo-2-(ethoxymethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-1,1-dimethylethyl}carbamate as a yellowish brown solid.

reactant | 1-[4-amino-7-bromo-2-(ethoxymethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-2-methylpropan-2-ol | NC1=NC=2C=C(C=NC2C2=C1N=C(N2CC(C)(O)C)COCC)Br | C16H20BrN5O2
reactant | tert-butyl 2-({7-bromo-3-[(ethoxyacetyl)amino][1,5]naphthyridin-4-yl}amino)-1,1-dimethylethylcarbamate | 0.104 mol, 55.6 g | BrC1=CN=C2C(=C(C=NC2=C1)NC(COCC)=O)NCC(C)(C)NC(OC(C)(C)C)=O | C21H30BrN5O4
reactant | potassium carbonate | 55.6 g | C([O-])([O-])=O.[K+].[K+]
product | tert-butyl {2-[7-bromo-2-(ethoxymethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-1,1-dimethylethyl}carbamate | 51 g | BrC=1C=NC=2C3=C(C=NC2C1)N=C(N3CC(C)(C)NC(OC(C)(C)C)=O)COCC | C21H28BrN5O3
